US05332831
(a) Ethyl 5-cyclopropyl-4-oxazolecarboxylate
A mixture of ethyl isocyanoacetate (13.4 g) in THF (65 ml) was added dropwise to a stirred solution of potassium tert-butoxide (14.5 g) in THF (97 ml) at 0° C. Cyclopropanecarboxylic acid chloride (5.4 ml) was added dropwise at below 10° C. and the solvent evaporated. Water (68 ml) and acetic acid (3.4 ml) was added to the mixture, then diisopropyl ether (2×150 ml) was added and the layers separated. The aqueous layer was further extracted with diisopropyl ether (2×150 ml) and the combined organic extracts were dried. Evaporation of the solvent afforded the title compound as a yellow oil (8.3 g).

reactant | ethyl isocyanoacetate | 13.4 g | [N+](#[C-])CC(=O)OCC | C5H7NO2
reactant | potassium tert-butoxide | 14.5 g | CC(C)([O-])C.[K+]
reactant | Cyclopropanecarboxylic acid chloride | 5.4 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | THF | 65 ml | C1CCOC1 | C4H8O
solvent | THF | 97 ml | C1CCOC1 | C4H8O
product | Ethyl 5-cyclopropyl-4-oxazolecarboxylate | 8.3 g | C1(CC1)C1=C(N=CO1)C(=O)OCC | C9H11NO3
